*****************************************************************
* NXP PSMN1R0-30YLC
*
* Polarity N-Channel
* Ratings 30V/1.15E+00OHMS/25A
*
* Date Created Mon Nov  8 00:27:03 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R0-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000275 TC=0.00918108890740351,4.23107913245939e-05
RBD 9 4 0.000848569711583809 TC=0.00918108890740351,4.23107913245939e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.45581955847473e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	5897
+ -10	5875
+ -5	5822
+ -4	5831
+ -3	5772
+ -2	5211
+ -1	3846
+ -0.5	3172
+ -0.2	2748
+ -0.1	2611
+ 0	2470.5
+ 0.1	2273
+ 0.2	2091
+ 0.5	1664
+ 1	1267
+ 2	934
+ 5	639
+ 10	489
+ 12	462
+ 20	413
+ 25	391



.MODEL MINT NMOS(Vto=1.94 Kp=0.650e+03 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1800)


.MODEL DBD D(Bv=32.00 Ibv=2.50E-04 Rs=1E-8 Is=9.39811761685531e-12
+ N=1 M=0.770000000000001 VJ=0.99 Fc=0.5 Cjo=6.082e-09 Tt=4.936e-08)

.ENDS




